US06225320B1
2-Bromo-3-methoxypyridine
2-Bromo-2-pyridinol (15 g, 86 mmol) in acetone (500 ml) was treated with potassium carbonate (23.8 g, 172 mmol) and iodomethane (8.1 ml, 130 mmol) and the suspension was refluxed at 70° C. for 16 hours. Once cooled, the mixture was filtered and the filtrate concentrated in vacuo. The residue was then purified by silica wet flash chromatography to give the product as yellow crystals (12.4 g, 66 mmol, 77% yield).

reactant | 2-Bromo-2-pyridinol | 86 mmol, 15 g | BrC1(NC=CC=C1)O | C5H6BrNO
reactant | potassium carbonate | 172 mmol, 23.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 130 mmol, 8.1 ml | IC | CH3I
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 2-Bromo-3-methoxypyridine | 66 mmol, 12.4 g, 77% yield | BrC1=NC=CC=C1OC | C6H6BrNO
